US08222248B2
2-[4-((S)-2,3-Dihydroxy-propoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide
To a solution of 2-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide (120 mg, 0.24 mmol) in MeOH (3 mL) was added 1N HCl (3 mL) and the solution was stirred at ambient temperature for 3 h. The solution was basified to pH 10 with 1N NaOH and the mixture was partioned between water and EtOAc. The aqueous layer was extracted with EtOAc and the organic layer was washed with water, brine, dried with MgSO4, filtered and concentrated. Purification by HPLC gave the title compound as a white solid. 1H NMR (Methanol-d4, 400 MHz): δ 8.22 (s, 1H), 7.90 (dd, 1H), 7.70 (d, 1H), 7.47 (s, 1H), 7.44 (dd, 1H), 7.13 (d, 1H), 6.80 (s, 2H), 4.11 (m, 1H), 4.03 (m, 2H), 3.72 (m, 2H), 2.29 (s, 3H), 2.26 (s, 3H), 2.14 (s, 6H). MS (m/z) 460.1 (M+1); Retention time: 1.23 min (Method 10).

reactant | 2-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide | 0.24 mmol, 120 mg | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OC[C@H]2OC(OC2)(C)C)C)C=C1 | C30H33N3O4
reactant | HCl | 1N, 3 mL | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-((S)-2,3-Dihydroxy-propoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OC[C@H](CO)O)C)C=C1 | C27H29N3O4
